US04745117
3-(3,4-Epoxybutyl-1-piperazinyl)-1,2-benzisothiazole:
A mixture of 4-bromo-1,2-epoxybutane (1.06 g; 7.02 mmol), 3-(1-piperazinyl)-1,2-benzisothiazole (1.65 g; 7.52 mmol), potassium carbonate (1.6 g; 11.3 mmol) and acetone (20 ml) was stirred under reflux for 19 hours. Confirming complete consumption of the starting materials, insoluble materials were removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the objective compound (1.5 g). Yield, 73.8%. IR νmaxfilm (cm-1): 1590, 1560, 1490, 1460.

reactant | 4-bromo-1,2-epoxybutane | 7.02 mmol, 1.06 g | BrCCC1CO1 | C4H7BrO
reactant | 3-(1-piperazinyl)-1,2-benzisothiazole | 7.52 mmol, 1.65 g | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
reactant | potassium carbonate | 11.3 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-(3,4-Epoxybutyl-1-piperazinyl)-1,2-benzisothiazole | 1.5 g | O1C(CCC2N(CCNC2)C2=NSC3=C2C=CC=C3)C1 | C15H19N3OS
